US08859561B2
A solution of 10-methyl-2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine (80 mg, 0.352 mmol) and powdered KOH (138 mg, 2.46 mmol) in NMP (2 mL) was stirred at RT for 5 min. 2-(Trifluoromethyl)-5-vinylpyridine (122 mg, 0.704 mmol) was added into the reaction mixture and stiffing continued for 16 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained was purified by silica gel flash chromatography to yield 10-methyl-7-(2-(6-(trifluoromethyl) pyridin-3-yl)ethyl)-2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine;

reactant | 10-methyl-2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine | 0.352 mmol, 80 mg | CC1=CC2=C(NC=3CCN4CCCC4C32)N=C1 | C14H17N3
reactant | KOH | 2.46 mmol, 138 mg | [OH-].[K+]
reactant | 2-(Trifluoromethyl)-5-vinylpyridine | 0.704 mmol, 122 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 10-methyl-7-(2-(6-(trifluoromethyl) pyridin-3-yl)ethyl)-2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine | CC1=CC2=C(N(C=3CCN4CCCC4C32)CCC=3C=NC(=CC3)C(F)(F)F)N=C1 | C22H23F3N4
